US09029536B2
C) 2-(4-Bromophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine
A mixture of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (2.0 g), 4-bromophenol (4.9 g) and TEA (4.0 ml) was stirred at 120° C. for 3 h. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with 1 M NaOH aqueous solution, dried over Na2SO4, filtered and concentrated under reduced pressure. The residual crystals were recrystallized from AcOEt to give the title compound (1.7 g).

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 2.0 g | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 4-bromophenol | 4.9 g | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | water | O | H2O
product | 2-(4-Bromophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine | 1.7 g | BrC1=CC=C(OC2=NC=3C(=NC=CC3)N2C)C=C1 | C13H10BrN3O
